### ISSUE TITLE
Proof obligation for `Lift.map ` in `src/Bluebell/ProbabilityTheory/Coupling.lean`

### ISSUE THREAD

**Issue by alexanderlhicks** [Verified-zkEVM/iris-lean#27]
A proof in `src/Bluebell/ProbabilityTheory/Coupling.lean` contains a `sorry`.

**Goal:** Replace the `sorry` with a complete proof.

[Link to the sorry on GitHub](https://github.com/Verified-zkEVM/iris-lean/blob/master/src/Bluebell/ProbabilityTheory/Coupling.lean#L161)

**Code Snippet:**
```lean
theorem Lift.map {p : PMF α} {q : PMF β} {R : Set (α × β)}
    (hpq : Lift p R q) (f : α → γ) (g : β → δ)
    (hR : ∀ a b, (a, b) ∈ R → (f a, g b) ∈ (Set.image (fun x : α × β => (f x.1, g x.2)) R)) :
    Lift (p.map f)
      (Set.image (fun x : α × β => (f x.1, g x.2)) R)
      (q.map g) := by
  rcases hpq with ⟨c, hc, hsupp⟩
  refine ⟨_, IsCoupling.map (hc) f g, ?_⟩
  intro y hy
  -- y = (f a, g b) for some (a,b) ∈ R by support transport; details deferred.
  -- One can use preimage witness on `map` mass; we leave as stub.
  sorry
```
